US09290485B2
d) N-((6-Amino-2,4-dimethylpyridin-3-yl)methyl)-1-((3-chloroquinolin-6-yl)methyl)-1H-pyrazole-4-carboxamide
To a solution of tent-Butyl 5-((1-((3-chloroquinolin-6-yl)methyl)-1H-pyrazole-4-carboxamido)methyl)-4,6-dimethylpyridin-2-ylcarbamate (125 mg, 0.240 mmol) in DCM (1 ml) Tri fluoro acetic acid (0.092 ml, 1.200 mmol) was added at rt. The reaction was stirred for 2 h at II. The reaction mixture was concentrated under vacuum to afford crude title compound. The crude product was dissolved in MeOH and filtered over a PL-HCO3-cartridge (MP-resin, VARIAN) to afford pure title compound.

reactant | Butyl 5-((1-((3-chloroquinolin-6-yl)methyl)-1H-pyrazole-4-carboxamido)methyl)-4,6-dimethylpyridin-2-ylcarbamate | 0.240 mmol, 125 mg | ClC=1C=NC2=CC=C(C=C2C1)CN1N=CC(=C1)C(=O)NCC=1C(=CC(=NC1C)NC(OCCCC)=O)C | C27H29ClN6O3
reactant | DCM | 1.200 mmol, 1 ml | C(Cl)Cl | CH2Cl2
solvent | MeOH | CO | CH4O
product | N-((6-Amino-2,4-dimethylpyridin-3-yl)methyl)-1-((3-chloroquinolin-6-yl)methyl)-1H-pyrazole-4-carboxamide | NC1=CC(=C(C(=N1)C)CNC(=O)C=1C=NN(C1)CC=1C=C2C=C(C=NC2=CC1)Cl)C | C22H21ClN6O
